US04044015
c. 5-Methoxyimidazo[1,2-a]pyridine
5-benzyloxyimidazo[1,2-a]pyridine and 8-benzyloxyimidazo[1,2-a]-pyridine.

reactant | 5-benzyloxyimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC1=CC=CC=2N1C=CN2 | C14H12N2O
reactant | 8-benzyloxyimidazo[1,2-a]-pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C=CN2 | C14H12N2O
product | 5-Methoxyimidazo[1,2-a]pyridine | COC1=CC=CC=2N1C=CN2 | C8H8N2O
